US05270311
To a solution of N-(1-propyl)-4-acetoxyphenylacetamide (11.4 g) in methanol (25 ml) was added a solution of sodium carbonate (2.65 g) in water (50 ml), and the mixture stirred overnight at ambient temperature. The methanol was removed in vacuo and the aqueous residue acidified to pH2. The product was extracted with ethyl acetate (3×50 ml), and the organic extracts combined and washed with brine (50 ml), dried (MgSO4). The solvent was evaporated to give N-(1-propyl)-4-hydroxyphenylacetamide as a yellow oil, essentially pure by TLC, NMR: 0.85(t,3H, CH3), 1.3-1.6(m,2H, CH2CH3), 3.15(t,2H, CH2N), 3.5(s,2H, CH2Ar), 5.75 (broad t,1H, NH), 6.85(d,2H, phenyl-H), 7.05(d,2H, phenyl-H) (the spectrum also contained peaks due to ethyl acetate); m/e 194 (M+H)+.

reactant | N-(1-propyl)-4-acetoxyphenylacetamide | 11.4 g | C(CC)NC(CC1=CC=C(C=C1)OC(C)=O)=O | C13H17NO3
reactant | sodium carbonate | 2.65 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | N-(1-propyl)-4-hydroxyphenylacetamide | C(CC)NC(CC1=CC=C(C=C1)O)=O | C11H15NO2
